US05883093
Step 1: 3-fluoro-4-(3-hydroxy-3-methyl-1-azetidinyl)nitrobenzene
A solution of 1-(diphenylmethyl)-3-methyl-3-azetidinol hydrochloride (3.00 g, 10.4 mmol) in 2:1 methanol/tetrahydrofuran (60 mL) was treated with triethylamine (1.00 g, 1.40 mL, 10.4 mmol) and then palladium hydroxide/carbon (0.300 g) under a N2 stream. The mixture was shaken on a Parr apparatus under 40 psi H2. TLC analysis (2:1 hexane/ethyl acetate) after 2.5 h revealed the hydrogenolysis to be complete. The reaction mixture was filtered through Celite® (dichloromethane wash) and the filtrate concentrated under reduced pressure to give an oil which was immediately taken-up in dry dimethyl sulfoxide (15 mL) and treated with dipotassium hydrogen phosphate (3.40 g, 19.8 mmol) and 3,4-difluoronitrobenzene (1.60 g, 1.10 mL, 9.9 mmol) at ambient temperature under N2. After stirring 16 hours at his temperature, TLC analysis (2:1 hexane/ethyl acetate) revealed the reaction to be essentially complete. The reaction mixture was transferred to a separatory funnel along with dichloromethane (100 mL) and water (150 mL). After shaking, the organic phase was separated. The aqueous phase was back-extracted with dichloromethane and the combined organic extracts washed with water, dried over sodium sulfate, filtered and concentrated in vacuo to an oil. Chromatography over silica gel, eluting with 3:1 hexane/ethyl acetate, afforded, after concentration of appropriate fractions, 2.15 g (98%) of the title compound as an orange solid with mp 109°-110° C. and MS(EI) 226 (M+).

reactant | 1-(diphenylmethyl)-3-methyl-3-azetidinol hydrochloride | 10.4 mmol, 3.00 g | Cl.C1(=CC=CC=C1)C(N1CC(C1)(O)C)C1=CC=CC=C1
reactant | triethylamine | 10.4 mmol, 1.40 mL, 1.00 g | C(C)N(CC)CC | C6H15N
reactant | dipotassium hydrogen phosphate | 19.8 mmol, 3.40 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | 3,4-difluoronitrobenzene | 9.9 mmol, 1.10 mL, 1.60 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
catalyst | palladium hydroxide/carbon | 0.300 g | [OH-].[OH-].[Pd+2]
solvent | water | 150 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol tetrahydrofuran | 60 mL | CO.O1CCCC1
product | 3-fluoro-4-(3-hydroxy-3-methyl-1-azetidinyl)nitrobenzene | 2.15 g, 98% | FC=1C=C(C=CC1N1CC(C1)(C)O)[N+](=O)[O-] | C10H11FN2O3
